US04204991
29.6 g of t-butoxycarbonylvalyltyrosine methyl ester is dissolved in 255 ml of acetic acid. To this solution is added 128 ml of 6 N hydrochloric acid in dioxane. The reaction is allowed to stand for five minutes and the solution is removed under vacuum. The residue is triturated with ethyl ether. The resultant precipitate is filtered, washed with ethyl ether and dried in a vacuum oven at 55° C. to afford valyltyrosine methyl ester hydrochloride.

reactant | t-butoxycarbonylvalyltyrosine methyl ester | 29.6 g | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)CC1=CC=C(C=C1)O)=O | C20H30N2O6
reactant | hydrochloric acid | 6 N, 128 ml | Cl | ClH
solvent | acetic acid | 255 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | valyltyrosine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@@H](N)C(C)C)=O)CC1=CC=C(C=C1)O)=O | InChI=1S/C15H22N2O4.ClH/c1-9(2)13(16)14(19)17-12(15(20)21-3)8-10-4-6-11(18)7-5-10;/h4-7,9,12-13,18H,8,16H2,1-3H3,(H,17,19);1H/t12-,13-;/m0./s1
